PZ Analysis of a Common Emitter Amplifier

Vcc 1 0 5v
Vee 2 0 0v

Vin 3 0 0.7838 AC 1
RS  3 4 1K
Q1  5 4 2 M_NPN AREA=4 SAVE
RL  1 5 2.5k
CL  5 0 0.1pF

.INCLUDE pebjt1.lib

.PZ 3 0 5 0 vol pz

.PRINT PZ ALL
.END

.control
OP
.endc
